US08492582B2
A trifluoroacetic acid (3.0 mL) solution of the obtained methyl 2-(2-acetoxy-5-methoxybenzamido)-4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)benzoate was stirred at room temperature for 1 hour and 40 minutes. The solvent was evaporated under reduced pressure, and toluene was added to the residue. The solvent was evaporated under reduced pressure, and dioxane (3.0 mL) and a 4 mol/L aqueous solution of sodium hydroxide (0.25 mL) were added to the obtained residue, followed by stirring at 50 to 55° C. for 1 hour and 30 minutes and then at 55 to 60° C. for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature, and water added thereto. After adjusting the pH to 7.0 with 1 mol/L hydrochloric acid, the solvent was evaporated under reduced pressure. Water was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.025 g of 2-(2-hydroxy-5-methoxybenzamido)-4-(2-(methylamino)phenyl)benzoic acid as a white solid.

reactant | trifluoroacetic acid | 3.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 2-(2-acetoxy-5-methoxybenzamido)-4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)benzoate | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=C(C=CC=C2)N(C)C(=O)OC(C)(C)C)C=C(C=C1)OC | C30H32N2O8
product | 2-(2-hydroxy-5-methoxybenzamido)-4-(2-(methylamino)phenyl)benzoic acid | 0.025 g | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=C(C=CC=C2)NC)C=C(C=C1)OC | C22H20N2O5
